US05948817
5-Bromo-1,3-benzodioxole-4-carboxylic acid, methyl ester:
5-Bromo-1,3-benzodioxole-4-carboxylic acid (0.34 g, 1.39 mmol) was dissolved in methanol (25 mL). A few drops of concentrated sulfuric acid were added and the solution was heated to reflux for 60 h at which time TLC analysis indicated the reaction complete. The reaction was cooled and poured into a solution of 5% NaHCO3 (25 mL) and extracted with ethyl acetate. The organic layers were dried with magnesium sulfate and concentrated by rotary evaporation to afford 0.20 g of product (0.77 mmol, 55% yield) as an off-white solid. 1H NMR (CDCl3) δ 7.11 (d, J=8.3 Hz, 1H), 6.78 (d, J=8.3 Hz, 1H), 6.09 (s, 2H), 3.95 (s, 3H).

reactant | 5-Bromo-1,3-benzodioxole-4-carboxylic acid | 1.39 mmol, 0.34 g | BrC1=C(C2=C(OCO2)C=C1)C(=O)O | C8H5BrO4
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
catalyst | sulfuric acid | A few drops | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-1,3-benzodioxole-4-carboxylic acid, methyl ester | 0.77 mmol, 0.20 g, 55% yield | BrC1=C(C2=C(OCO2)C=C1)C(=O)OC | C9H7BrO4
